US07098219B2
1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-(L)-alaninylamino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid hydrochloride
1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(N-t-butoxycarbonyl-L-alanyl)amino-3′,3′-dimethylpiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid (0.9 gm) is hydrolysed with 6N HCl (20 ml) at room temperature for 1 hr. The mixture concentrated to furnish the titled product. Yield 75%, m.p 245–50° C., C24H31FN4O5.HCl m/z 475 (M+1).

reactant | 1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(N-t-butoxycarbonyl-L-alanyl)amino-3′,3′-dimethylpiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid | 0.9 gm | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)NC([C@@H](NC(=O)OC(C)(C)C)C)=O)(C)C)F)=O)C(=O)O | C29H39FN4O7
reactant | HCl | 6N, 20 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-(4′-(L)-alaninylamino-3′,3′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid hydrochloride | Yield 75% | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(C(CC1)NC([C@@H](N)C)=O)(C)C)F)=O)C(=O)O | InChI=1S/C24H31FN4O5.ClH/c1-12(26)22(31)27-17-7-8-28(11-24(17,2)3)19-16(25)9-14-18(21(19)34-4)29(13-5-6-13)10-15(20(14)30)23(32)33;/h9-10,12-13,17H,5-8,11,26H2,1-4H3,(H,27,31)(H,32,33);1H/t12-,17?;/m0./s1
